US07060836B2
1-Benzhydryl-3-(2-methoxyphenyl)-3-azetidinol
2-Methoxyphenylmagnesium bromide (5.9 ml, 1M solution in tetrahydrofuran, 5.9 mmol) was added to a cooled (−78° C.) solution of 1-benzhydryl-azetidin-3-one (WO 9412181) (1 g, 4.2 mmol) in tetrahydrofuran (20 ml), and the reaction stirred at −78° C. for 15 minutes, then allowed to warm to room temperature over 30 minutes. The mixture was partitioned between water (100 ml) and ethyl acetate (100 ml), the layers separated, and the aqueus phase extracted with ethyl acetate (100 ml). The combined organic solutions were washed with brine (100 ml), dried (MgSO4) and evaporated under reduced pressure. The residual yellow oil was purified by column chromatography on silica gel using pentane:ethyl acetate (50:50) as eluant to afford the title compound as a white foam.

reactant | 2-Methoxyphenylmagnesium bromide | 5.9 mmol, 1M, 5.9 ml | COC1=C(C=CC=C1)[Mg]Br
reactant | 1-benzhydryl-azetidin-3-one | 4.2 mmol, 1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=O | C16H15NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-Benzhydryl-3-(2-methoxyphenyl)-3-azetidinol | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(O)C1=C(C=CC=C1)OC | C23H23NO2
